US07060844B2
A mixture of 5-aminooxindole (1.0 g, 6.75 mmol), 3,5-dimethoxybenzaldehyde (1.35 g, 8.12 mmol), sodium triacetoxyborohydride (4.3 g, 20.3 mmol), and AcOH (0.5 ml) in DMF (15 ml) was stirred at room temperature for 3.5 hours. The mixture was partitioned between saturated NaHCO3 solution (50 ml) and CHCl3 (50 ml). The aqueous layer was extracted again with CHCl3 (2×50 ml). The organic layers were combined, washed with saturated NaHCO3 solution (50 ml), water (2×75 ml), dried over Na2SO4, and poured into Et2O (100 ml) with stirring. The resulting solid was filtered, washed with Et2O and dried to give 5-(2,4-dimethoxy-benzylamino)-1,3-dihydro-indol-2-one as a brown solid (1.02 g, 51%).

reactant | 5-aminooxindole | 6.75 mmol, 1.0 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | 3,5-dimethoxybenzaldehyde | 8.12 mmol, 1.35 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | sodium triacetoxyborohydride | 20.3 mmol, 4.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.5 ml | CC(=O)O | C2H4O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-(2,4-dimethoxy-benzylamino)-1,3-dihydro-indol-2-one | 1.02 g, 51% | COC1=C(CNC=2C=C3CC(NC3=CC2)=O)C=CC(=C1)OC | C17H18N2O3
